US09388144B2
To a solution of (14S,18S)-tri-tert-butyl 1-(1-(2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)-8,16-dioxo-2-(4-(prop-2-yn-1-yloxy)benzyl)-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate (65 mg, 0.0586 mmol) and 3-azidopropan-1-amine (200 mg, 2.0 mmol) in THF (2.0 mL) and water (0.5 mL) was added copper powder (10 mg) and 1 N CuSO4 (0.05 mL). The mixture was stirred at room temperature for 2 h under nitrogen, diluted with DCM and washed with an aqueous saturated solution of EDTA. The solvent was evaporated under reduce pressure to afford a residue, which was purified by Biotage SP4 to afford (14S,18S)-tri-tert-butyl 2-(4-((1-(3-aminopropyl)-1H-1,2,3-triazol-4-yl)methoxy)benzyl)-1-(1-(2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)-8,16-dioxo-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate (17.5 mg, 25%). MS (ESI), 605.8 (M/2+H)′.

reactant | (14S,18S)-tri-tert-butyl 1-(1-(2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)-8,16-dioxo-2-(4-(prop-2-yn-1-yloxy)benzyl)-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate | 0.0586 mmol, 65 mg | C(C)(C)(C)OC(CN(C(CN1C(=NC=C1)CN(CCCCCC(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)CC1=CC=C(C=C1)OCC#C)=O)CC(OC(C)(C)C)=O)=O | C58H91N7O14
reactant | 3-azidopropan-1-amine | 2.0 mmol, 200 mg | N(=[N+]=[N-])CCCN | C3H8N4
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | copper | 10 mg | [Cu] | Cu
catalyst | CuSO4 | 1 N, 0.05 mL | [O-]S(=O)(=O)[O-].[Cu+2]
product | (14S,18S)-tri-tert-butyl 2-(4-((1-(3-aminopropyl)-1H-1,2,3-triazol-4-yl)methoxy)benzyl)-1-(1-(2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)-8,16-dioxo-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate | 17.5 mg, 25% | NCCCN1N=NC(=C1)COC1=CC=C(CN(CC=2N(C=CN2)CC(=O)N(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C)CCCCCC(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)C=C1 | C61H99N11O14
